US08895745B2
Step (a): 1-(3-Bromo-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea
3-Bromophenyl isocyanate (21.12 g, 107 mmol) was added slowly to a stirred solution of 2,2,2-trifluoroethyl amine (40 ml, 0.5 mol) in THF (100 mL) at 0° C. under N2, rinsing with THF (25 mL). The reaction was allowed to warm slowly to RT and kept at this temperature for 16 hours. The volatiles were removed under reduced pressure to give the title compound (31.6 g) as a solid. 1H NMR (400 MHz, DMSO-d6) δ 8.94 (1H, s), 7.80 (1H, t), 7.31-7.24 (1H, m), 7.20 (1H, t), 7.16-7.08 (1H, m), 6.83 (1H, bt), 3.98-3.85 (2H, m).

reactant | 3-Bromophenyl isocyanate | 107 mmol, 21.12 g | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
reactant | 2,2,2-trifluoroethyl amine | 0.5 mol, 40 ml | FC(CN)(F)F | C2H4F3N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea | 31.6 g | BrC=1C=C(C=CC1)NC(=O)NCC(F)(F)F | C9H8BrF3N2O
